US07125906B2
2-Carbamoyl-5-benzyloxy-1H-indole (1 g; 3.35 mmol) in solution in methanol (60 ml) was hydrogenated on 10% Pd/C (0.28 g) for 2 hours. After filtration on celite the solvent was evaporated to give 2-carbamoyl-5-hydroxy-1H-indole which was used in the next step without further purification.

reactant | 2-Carbamoyl-5-benzyloxy-1H-indole | 3.35 mmol, 1 g | C(N)(=O)C=1NC2=CC=C(C=C2C1)OCC1=CC=CC=C1 | C16H14N2O2
solvent | methanol | 60 ml | CO | CH4O
catalyst | Pd/C | 0.28 g | [Pd] | Pd
product | 2-carbamoyl-5-hydroxy-1H-indole | Yield: 100% | C(N)(=O)C=1NC2=CC=C(C=C2C1)O | C9H8N2O2
